US08058409B2
Sodium 3-chloro-2-hydroxypropanesulfonate (1.97 g, 10 mmol) was dissolved in 12.5% aq. ammonium solution and it was stirred at room temperature overnight. Ammonia was removed by concentrating the solution in evaporator and Sodium 3-amino-2-hydroxypropanesulfonate was obtained. Sodium 3-amino-2-hydroxypropanesulfonate (177 mg, 1 mmol) was dissolved in water (10 ml), NaHCO3 (84 mg, 1 mmol) and lauroyl chloride (231 μl, 1 mmol) were added and the mixture was stirred at room temperature for 2 hours. After the reaction was completed, the compound was absorbed by adding Wakogel 50C18 (2 cm3), the gel was loaded into a column and washed with water (50 ml), and eluted with methanol (10 ml). The elution was cooled to give PHL (sodium 2-hydroxy-3-lauramide-1-propansulfonate) as a crystalline. MALDI-TOF-MS [M+Na]+ m/z=381.75.

reactant | Sodium 3-chloro-2-hydroxypropanesulfonate | 10 mmol, 1.97 g | ClCC(CS(=O)(=O)[O-])O.[Na+]
reactant | ammonium | [NH4+]
product | Sodium 3-amino-2-hydroxypropanesulfonate | NCC(CS(=O)(=O)[O-])O.[Na+] | InChI=1S/C3H9NO4S.Na/c4-1-3(5)2-9(6,7)8;/h3,5H,1-2,4H2,(H,6,7,8);/q;+1/p-1
